US06624136B2
coumarin;
cedrol; vanillin; cyclopentadecanolide tricyclodecenyl acetate; tricyclodecenyl propionate; phenylethyl alcohol

reactant | cedrol | C[C@@H]1CC[C@@H]2[C@]13CC[C@@]([C@H](C3)C2(C)C)(C)O | C15H26O
reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | tricyclodecenyl propionate | CCC(=O)OC1CC2CC1C3C2C=CC3 | C13H18O2
reactant | phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
